US09315458B2
G) 1,5-anhydro-2-(4-chloro-6-(4-methoxybenzyl)-5-methyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol
To a solution of methyl 3-chloro-2-formyl-5-(4-methoxybenzyl)-4-methylbenzoate (0.10 g) in THF (2.00 mL) were added (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (0.04 g) and anhydrous magnesium sulfate (0.07 g), and the mixture was stirred at room temperature for 6 hr. The insoluble substance was removed by filtration, the filtrate was concentrated, and the residue was diluted with methanol (2.00 mL)-THF (2.00 mL). Sodium triacetoxyborohydride (0.19 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.05 g).

reactant | methyl 3-chloro-2-formyl-5-(4-methoxybenzyl)-4-methylbenzoate | 0.10 g | ClC=1C(=C(C(=O)OC)C=C(C1C)CC1=CC=C(C=C1)OC)C=O | C18H17ClO4
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 0.04 g | N[C@H]1COCC[C@@H]1O | C5H11NO2
reactant | magnesium sulfate | 0.07 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2-(4-chloro-6-(4-methoxybenzyl)-5-methyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol | 0.05 g | ClC1=C2CN(C(C2=CC(=C1C)CC1=CC=C(C=C1)OC)=O)[C@H]1COCC[C@@H]1O | C22H24ClNO4
